* Z:\mnt\design.r\spice\examples\ADP7118-3.3.asc
C2 N001 0 4.7n
V1 IN 0 4.3
C1 OUT 0 2.2µ
XU1 IN OUT IN N001 OUT 0 ADP7118 Vref=3.3
Rload OUT 0 22
.tran 6m startup
.lib ADP7102.lib
.backanno
.end
